US04125729
Methyl [p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate
A solution of 73.5 ml of 70% perchloric acid in 370 ml of methanol is cooled to 0° C and 73.76 g of thallium nitrate trihydrate followed by 42.25 g of 4'-(α,α,α-trifluoro-m-tolyloxy)acetophenone are added. The mixture is allowed to stir overnight while warming to room temperature. A white solid is rmoved by filtration and the filtrate is diluted with one liter of water. The resulting mixture is extracted with three 200 ml portions of chloroform. The combined organic extracts are washed with two 200 ml portions of water, 200 ml of saturated NaHCO3, saturated NaCl and dried over MgSO4. Evaporation of the solvent affords a yellow oil, which is filtered through aluminum oxide (benzene) and distilled at 0.07 mm to give the product as a yellow oil, bp 120°-148° C.

reactant | perchloric acid | 73.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | thallium nitrate trihydrate | 73.76 g | O.O.O.[N+](=O)([O-])[O-].[Tl+]
reactant | 4'-(α,α,α-trifluoro-m-tolyloxy)acetophenone | 42.25 g | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)C(C)=O)(F)F | C15H11F3O2
reactant | methanol | 370 ml | CO | CH4O
product | Methyl [p-(α,α,α-trifluoro-m-tolyloxy)phenyl]acetate | FC(C1=CC(=CC=C1)OC1=CC=C(C=C1)CC(=O)OC)(F)F | C16H13F3O3
